US08242280B2
2-Hydroxy-N,N-dimethyl-2-{5-[3-(2-methyl-2H-pyrazol-3-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyridin-3-yl}-acetamide (71 mg, 0.1 mmol) was stirred in dichloromethane/trifluoroacetate acid (1 ml/1 ml) at room temperature for 2 hours. The solvents were removed under vacuum and the crude material was stirred in dichloromethane/ethylenediamine (1 ml/1 ml) for 2 hours at room temperature. The solvents were removed in vacuo and the residue was dissolved in DMSO, filtered and purified by reverse phase HPLC and lyophilized to afford 2-hydroxy-N,N-dimethyl-2-{5-[3-(2-methyl-2H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyridin-3-yl}-acetamide (33 mg, 61% yield). 1H NMR (500 MHz, DMSO-d6) δ 2.87 (s, 3H), 3.00 (s, 3H), 3.93 (s, 3H), 7.53 (m, 1H), 7.94 (s, 1H), 8.12 (m, 1H), 8.25 (m, 1H), 8.56 (m, 1H), 8.65 (m, 1H), 8.92 (m, 1H), 12.38 (s, 1H). MS: m/z 377.2 (M+H+).

reactant | 2-Hydroxy-N,N-dimethyl-2-{5-[3-(2-methyl-2H-pyrazol-3-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyridin-3-yl}-acetamide | 0.1 mmol, 71 mg | OC(C(=O)N(C)C)C=1C=NC=C(C1)C=1C=C2C(=NC1)N(C=C2C=2N(N=CC2)C)COCC[Si](C)(C)C | C26H34N6O3Si
solvent | dichloromethane trifluoroacetate | 1 ml | ClCCl.FC(C(=O)[O-])(F)F
product | 2-hydroxy-N,N-dimethyl-2-{5-[3-(2-methyl-2H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyridin-3-yl}-acetamide | 33 mg, 61% yield | OC(C(=O)N(C)C)C=1C=NC=C(C1)C=1C=C2C(=NC1)NC=C2C=2N(N=CC2)C | C20H20N6O2
